simulator lang=spectre
global 0
include "/home/process/tsmc180bcd_gen2_2022/PDK/TSMC180BCD/models/spectre/c018bcd_gen2_v1d6.scs" section=tt
include "/home/process/tsmc180bcd_gen2_2022/PDK/TSMC180BCD/models/spectre/c018bcd_gen2_v1d6.scs" section=stat_noise
simulator lang=spectre insensitive=no
include "cells.scs"
include "receiver.scs"
simulatorOptions options reltol=1e-3 vabstol=1e-5 iabstol=1e-12 temp=27

include "digital_cells_v2.scs"
VDD (vdd 0) vsource dc=1.2
VREF (refclk 0) vsource type=pulse val0=0 val1=1.2 delay=10n rise=50p fall=50p width=2.0783333333333334e-08 period=4.166666666666667e-08
Vreset (reset 0) vsource type=pwl wave=[0 1.2 1e-07 1.2 1.0005e-07 0.0]
include "frequency_watchdog.scs"
Vactive (active 0) vsource type=pwl wave=[0 0.0 2e-07 0.0 2.0005e-07 1.2 2.5e-05 1.2 2.500005e-05 0.0]
VK0 (target_k0 0) vsource dc=1.2
VK1 (target_k1 0) vsource dc=0
VK2 (target_k2 0) vsource dc=0
VK3 (target_k3 0) vsource dc=1.2
VK4 (target_k4 0) vsource dc=0
VK5 (target_k5 0) vsource dc=1.2
Vmeasured0 (measured0 0) vsource type=pwl wave=[0 0.0 2e-07 0.0 2.0005e-07 0.0 1e-05 0.0 1.000005e-05 0.0 2e-05 0.0 2.000005e-05 0.0]
Vmeasured1 (measured1 0) vsource type=pwl wave=[0 0.0 2e-07 0.0 2.0005e-07 0.0 1e-05 0.0 1.000005e-05 0.0 2e-05 0.0 2.000005e-05 0.0]
Vmeasured2 (measured2 0) vsource type=pwl wave=[0 0.0 2e-07 0.0 2.0005e-07 0.0 1e-05 0.0 1.000005e-05 1.2 2e-05 1.2 2.000005e-05 0.0]
Vmeasured3 (measured3 0) vsource type=pwl wave=[0 0.0 2e-07 0.0 2.0005e-07 0.0 1e-05 0.0 1.000005e-05 0.0 2e-05 0.0 2.000005e-05 0.0]
Vmeasured4 (measured4 0) vsource type=pwl wave=[0 0.0 2e-07 0.0 2.0005e-07 0.0 1e-05 0.0 1.000005e-05 0.0 2e-05 0.0 2.000005e-05 0.0]
Vmeasured5 (measured5 0) vsource type=pwl wave=[0 0.0 2e-07 0.0 2.0005e-07 1.2 1e-05 1.2 1.000005e-05 1.2 2e-05 1.2 2.000005e-05 1.2]
Vmeasured6 (measured6 0) vsource type=pwl wave=[0 0.0 2e-07 0.0 2.0005e-07 0.0 1e-05 0.0 1.000005e-05 0.0 2e-05 0.0 2.000005e-05 0.0]
Vmeasured7 (measured7 0) vsource type=pwl wave=[0 0.0 2e-07 0.0 2.0005e-07 0.0 1e-05 0.0 1.000005e-05 0.0 2e-05 0.0 2.000005e-05 0.0]
Vmeasured8 (measured8 0) vsource type=pwl wave=[0 0.0 2e-07 0.0 2.0005e-07 1.2 1e-05 1.2 1.000005e-05 1.2 2e-05 1.2 2.000005e-05 1.2]
Vmeasured9 (measured9 0) vsource type=pwl wave=[0 0.0 2e-07 0.0 2.0005e-07 0.0 1e-05 0.0 1.000005e-05 0.0 2e-05 0.0 2.000005e-05 0.0]
Vmeasured10 (measured10 0) vsource type=pwl wave=[0 0.0 2e-07 0.0 2.0005e-07 1.2 1e-05 1.2 1.000005e-05 1.2 2e-05 1.2 2.000005e-05 1.2]
Vmeasured11 (measured11 0) vsource type=pwl wave=[0 0.0 2e-07 0.0 2.0005e-07 0.0 1e-05 0.0 1.000005e-05 0.0 2e-05 0.0 2.000005e-05 0.0]
Vmeasured12 (measured12 0) vsource type=pwl wave=[0 0.0 2e-07 0.0 2.0005e-07 0.0 1e-05 0.0 1.000005e-05 0.0 2e-05 0.0 2.000005e-05 0.0]
Vmeasured13 (measured13 0) vsource type=pwl wave=[0 0.0 2e-07 0.0 2.0005e-07 0.0 1e-05 0.0 1.000005e-05 0.0 2e-05 0.0 2.000005e-05 0.0]
XD (refclk reset active target_k0 target_k1 target_k2 target_k3 target_k4 target_k5 measured0 measured1 measured2 measured3 measured4 measured5 measured6 measured7 measured8 measured9 measured10 measured11 measured12 measured13 count_gate count_reset frequency_good valid vdd 0) tx_frequency_watchdog
tran tran stop=25.5u maxstep=2n method=gear2only errpreset=moderate strobeperiod=1n strobeoutput=strobeonly
save refclk reset active target_k0 target_k1 target_k2 target_k3 target_k4 target_k5 measured0 measured1 measured2 measured3 measured4 measured5 measured6 measured7 measured8 measured9 measured10 measured11 measured12 measured13 count_gate count_reset frequency_good valid VDD:p
saveOptions options save=selected
